US05821247
To a solution of 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide (1.0 g, 4.0 mmol) in THF (30 mL) was added boranemethyl sulfide complex (10 M, 1.9 mL, 19 mmol). The resultant mixture was refluxed for 7 h. To the resultant reaction mixture was added IN hydrochloric acid (9.6 mL) under ice-cooling, and the resultant mixture was further refluxed for 2 h followed by concentration under reduced pressure. The residue was extracted with ethyl acetate after addition of 1N aqueous solution of sodium hydroxide. The organic layer was washed with 10% aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, concentrated under reduced pressure, and purified by silica-gel column chromatography to give an amine, 2-aminomethyl-6-hydroxy-2,5,7,8-tetramethylchroman (yield 55%).

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 4.0 mmol, 1.0 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)N)C)C | C14H19NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 9.6 mL | Cl | ClH
product | 2-aminomethyl-6-hydroxy-2,5,7,8-tetramethylchroman | yield 55% | NCC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C14H21NO2
